US08034812B2
Production of methyl 3-({[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]amino}carbonyl)benzoate
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (250 mg, 0.81 mmol), 3-(methoxycarbonyl)benzoic acid (150 mg, 0.83 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (160 mg, 0.84 mmol), 1-hydroxybenzotriazole (110 mg, 0.81 mmol) and N,N-dimethylformamide (8.0 mL) as starting materials and in the same manner as in Example 318, the title compound (270 mg, 72%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.81 mmol, 250 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 3-(methoxycarbonyl)benzoic acid | 0.83 mmol, 150 mg | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.84 mmol, 160 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.81 mmol, 110 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 8.0 mL | CN(C=O)C | C3H7NO
product | methyl 3-({[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]amino}carbonyl)benzoate | 270 mg, 72% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C=2C=C(C(=O)OC)C=CC2)C1 | C25H21N5O5
